US09290451B2
2-[(6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid (Example 14 a) and 2-methyl-alanine methyl ester as starting materials, MS (LC/MS): 362.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CCCC1 | C14H18N2O3
reactant | 2-methyl-alanine methyl ester | COC(C(N)(C)C)=O | C5H11NO2
product | 2-[(6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=NC(=C(C=C1)N1CCCC1)OCC1CC1)=O | C19H27N3O4
